US04826844
(b) 1-[1-(4-Methoxyphenyl)-3-(1-piperazinyl)propyl]cyclohexanol
A solution of 1-[1-(4-methoxyphenyl)-3-[4-(phenylmethyl)-1-piperazinyl]-1-propenyl]cyclohexanol, dihydrochloride (14.6 g, 29.6 mmole) in ethanol (250 mL) was hydrogenated in a Parr apparatus over 10% Pd/C for 65 hours. The catalyst was filtered and the filtrate evaporated. The residue was partitioned between ethyl acetate (120 mL) and N sodium hydroxide (65 mL). The layers were separated. The aqueous phase was extracted with ethyl acetate. The combined organic solution was washed with brine, dried over magnesium sulfate and evaporated to obtain the title compound as an oil. Wt. 7.8 g. Mass spectral analysis: Molecular weight by C.I.M.S.: M+1 334.

reactant | 1-[1-(4-methoxyphenyl)-3-[4-(phenylmethyl)-1-piperazinyl]-1-propenyl]cyclohexanol, dihydrochloride | 29.6 mmole, 14.6 g | Cl.Cl.COC1=CC=C(C=C1)C(=CCN1CCN(CC1)CC1=CC=CC=C1)C1(CCCCC1)O
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 1-[1-(4-Methoxyphenyl)-3-(1-piperazinyl)propyl]cyclohexanol | COC1=CC=C(C=C1)C(CCN1CCNCC1)C1(CCCCC1)O | C20H32N2O2
